US07696356B2
Accordingly, 1,2,3,9-tetrahydro-9-methyl-3-methylene-4H-carbazol-4-one was synthesized from 1,2,3,9-tetrahydro-9-methyl-4H-carbazol-4-one using a formaldehyde reagent (paraformaldehyde) and a mineral acid (HCl) in an aprotic solvent (DMF). Note that this reaction was rapid and high yielding, even though it was performed without using glacial acetic acid as a solvent, and without using a secondary amine as a catalyst.

reactant | 1,2,3,9-tetrahydro-9-methyl-4H-carbazol-4-one | CN1C2=CC=CC=C2C=2C(CCCC12)=O | C13H13NO
reactant | formaldehyde | C=O | CH2O
reactant | HCl | Cl | ClH
reactant | DMF | CN(C)C=O | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1,2,3,9-tetrahydro-9-methyl-3-methylene-4H-carbazol-4-one | CN1C2=CC=CC=C2C=2C(C(CCC12)=C)=O | C14H13NO
